US07872009B2
Step 4: 5-Oxo-8-propionyl-1,2,3,5-tetrahydroindolizin-6-yl trifluoromethanesulfonate
To a stirred, cooled (0° C.) solution of 6-hydroxy-8-propionyl-2,3-dihydroindolizin-5-(1H)-one (1.10 g, 4.53 mmol) in CH2Cl2 (10 mL) was added Et3N. After stirring for 20 min., N-phenyltrifluoromethane sulfonamide was added in one portion. The mixture was stirred at RT for 6 h and quenched with H2O. the mixture was extracted with CH2Cl2 (3×) and the combined organic layers were dried over MgSO4, concentrated and purified by ISCO (40% EtOAc/Hexanes) to give the title compound as a white solid (1.50 g, 99%).

reactant | 6-hydroxy-8-propionyl-2,3-dihydroindolizin-5-(1H)-one | 4.53 mmol, 1.10 g | OC=1C(N2CCCC2=C(C1)C(CC)=O)=O | C11H13NO3
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | N-phenyltrifluoromethane sulfonamide | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Oxo-8-propionyl-1,2,3,5-tetrahydroindolizin-6-yl trifluoromethanesulfonate | 1.50 g, 99% | FC(S(=O)(=O)OC=1C(N2CCCC2=C(C1)C(CC)=O)=O)(F)F | C12H12F3NO5S
